US06329380B1
Step D: 2-[1-(1-(N-(Naphth-1-yl)carbamoyl)piperidin-3-yl)ethylamino]-4-[5-(pyridin-4-yl)-benzimidazol-1-yl]pyrimidine
The title compound was prepared from 2-[1-(piperidin-3-yl)-ethylamino]-4-[5-(pyridin-4-yl)-benzimidazol-1-yl]pyrimidine according to the procedure described in EXAMPLE 29 using 1-naphthylisocyanate. Mass spectrum (ESI) 569.5 (M+1).

reactant | 2-[1-(piperidin-3-yl)-ethylamino]-4-[5-(pyridin-4-yl)-benzimidazol-1-yl]pyrimidine | N1CC(CCC1)C(C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)C2=CC=NC=C2 | C23H25N7
reactant | 1-naphthylisocyanate | C1(=CC=CC2=CC=CC=C12)N=C=O | C11H7NO
product | 2-[1-(1-(N-(Naphth-1-yl)carbamoyl)piperidin-3-yl)ethylamino]-4-[5-(pyridin-4-yl)-benzimidazol-1-yl]pyrimidine | C1(=CC=CC2=CC=CC=C12)NC(=O)N1CC(CCC1)C(C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)C2=CC=NC=C2 | C34H32N8O
